US04795815
N-(t-Butoxycarbonyl) (L)-serine trifluoroacetyl hydrazide (3.78 g, 12 mmol) and triphenylphosphine (3.46 g, 13.2 mmol) were dissolved in THF (50 ml). To the solution was added a THF solution (10 ml) of 95% diethyl azodicarboxylate (2.42 g, 2.19 ml, 13.2 mmol). The resultant mixture was stirred at room temperature for six hours and then the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (100 ml) and then the solution was washed with aqueous sodium bicarbonate solution (33 ml, 3×). The sodium bicarbonate extracts were combined, aqueous saturated brine solution (70 ml) was added and the resultant mixture was extracted with ethyl acetate (120 ml, 3×). The sodium bicarbonate solution was then layered with additional ethyl acetate (200 ml) and 1N hydrochloric acid (approx. 80 ml) was added until the sodium bicarbonate solution had a pH of 2.5. The ethyl acetate layer was separated and the aqueous layer was extracted with additional ethyl acetate (4×, 125 ml). The ethyl acetate extracts were combined, washed with saturated aqueous brine (125 ml, 2×), dried over sodium sulfate, filtered, and taken to dryness in vacuo. The resultant residue was dissolved in acetonitrile (100 ml) then the acetonitrile was removed in vacuo. Treatment of the residue with acetonitrile was repeated to yield 3.06 g, 96% yield of 4-(S)-(t-butoxycarbonylamino)-1-(trifluoroacetyl)-3-oxo-1,2-diazolidine: n.m.r (300 MHz, CDCl3): δ 5.25 (d, 1, J=6), 4.81 (t, 1), 4.6 (m, 1), 4.06 (t, 1), 1.46 (s, 9); i.r. (CHCl3): 1722, 1682, 1518 cm-1 ; f.d.m.s. (m/e): M+ =297; specific rotation: [α]D25 =-88.14° (10.03 mg/ml in methanol);

reactant | N-(t-Butoxycarbonyl) (L)-serine trifluoroacetyl hydrazide | 12 mmol, 3.78 g | FC(C(=O)N(N)C([C@@H](NC(=O)OC(C)(C)C)CO)=O)(F)F | C10H16F3N3O5
reactant | triphenylphosphine | 13.2 mmol, 3.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 13.2 mmol, 2.19 ml, 2.42 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(S)-(t-butoxycarbonylamino)-1-(trifluoroacetyl)-3-oxo-1,2-diazolidine | 3.06 g, 96% yield | C(C)(C)(C)OC(=O)N[C@@H]1C(NN(C1)C(C(F)(F)F)=O)=O | C10H14F3N3O4
